US07563910B2
Rac-5-(5-Chloro-2-methoxy-4-methyl-phenyl)-1-[1,4]dioxan-2-ylmethyl-2-methyl-1H-pyrrole-3-carboxylic acid piperidin-1-ylamide
The title compound was synthesized in analogy to Example 7, using 3-oxo-butyric acid methyl ester as compound of formula R, 2-bromo-1-(5-chloro-2-methoxy-4-methyl-phenyl)-ethanone (purchased from Oakwood) as compound of formula S, rac-1,4-dioxane-2-methanamine as R3—(CH2)m—NH2 and piperidine-1-ylamine as R1R2NH, MS (ISP) 462.2 (M+H)+.

reactant | 3-oxo-butyric acid methyl ester | COC(CC(C)=O)=O | C5H8O3
reactant | 2-bromo-1-(5-chloro-2-methoxy-4-methyl-phenyl)-ethanone | BrCC(=O)C1=C(C=C(C(=C1)Cl)C)OC | C10H10BrClO2
reactant | rac-1,4-dioxane-2-methanamine | O1C(COCC1)CN | C5H11NO2
reactant | piperidine-1-ylamine | N1(CCCCC1)N | C5H12N2
product | Rac-5-(5-Chloro-2-methoxy-4-methyl-phenyl)-1-[1,4]dioxan-2-ylmethyl-2-methyl-1H-pyrrole-3-carboxylic acid piperidin-1-ylamide | N1(CCCCC1)NC(=O)C1=C(N(C(=C1)C1=C(C=C(C(=C1)Cl)C)OC)CC1OCCOC1)C | C24H32ClN3O4
